US06703112B1
The same classes of materials were also prepared by using appropriate metal alkoxides and hydroxysulfonic or sulfocarboxylic acids in water. Thus, aluminum isopropoxide was mixed with 5-sulfophthalic acid in 2:3 molar ratio and the mixture was heated to about 60° C. for about ½ hr. Aluminum isopropoxide was hydrolyzed and the salt was obtained as aqueous solution and was used as such for inkjet coatings. Magnesium ethoxide was similarly hydrolyzed from its mixture with the same acid in 1:2 molar ratio to obtain magnesium sulfophthalate in aqueous solution.

reactant | aluminum isopropoxide | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 5-sulfophthalic acid | S(=O)(=O)(O)C1=CC=C(C(C(=O)O)=C1)C(=O)O | C8H6O7S
reactant | Magnesium ethoxide | [O-]CC.[Mg+2].[O-]CC
solvent | water | O | H2O
product | magnesium sulfophthalate | S(=O)(=O)(O)C1=C(C(C(=O)[O-])=CC=C1)C(=O)[O-].[Mg+2] | InChI=1S/C8H6O7S.Mg/c9-7(10)4-2-1-3-5(16(13,14)15)6(4)8(11)12;/h1-3H,(H,9,10)(H,11,12)(H,13,14,15);/q;+2/p-2
